US04556672
To 130 ml of toluene was added, with stirring, 24.0 g (0.165 mole) of 3-chloro-4-fluoroaniline and 13.5 ml (0.166 mole) of pyridine. The resulting solution was cooled to ca. 0° C. and 13.2 ml (0.166 mole) of 2-chloroacetyl chloride was added. The reaction mixture was stirred at room temperature for 5 hours and then it was extracted twice with 100 ml of 1N hydrochloric acid, followed by 100 ml of saturated sodium chloride solution. The resulting toluene solution was dried using magnesium sulfate, and then it was concentrated in vacuo to give 32.6 g (88% yield) of N-(2-chloroacetyl)-3-chloro-4-fluoroaniline.

reactant | 3-chloro-4-fluoroaniline | 0.165 mole, 24.0 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | pyridine | 0.166 mole, 13.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-chloroacetyl chloride | 0.166 mole, 13.2 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-chloroacetyl)-3-chloro-4-fluoroaniline | 32.6 g, 88% yield | ClCC(=O)NC1=CC(=C(C=C1)F)Cl | C8H6Cl2FNO
